US06586120B2
2,7-Bis(diarylamino)-9,9-bis(diarylaminophenyl)fluorene, a compound of this invention, can be synthesized according to the above synthetic route as follows: A mixture of a 2,7-dinitrofluorenone and an aniline is refluxed in the presence of an acid catalyst to give an intermediate 2,7-dinitro-9,9-bis(aminophenyl)fluorene. The two nitro groups are then converted to two amino groups by a reduction reaction with Fe/NH4Cl. Finally, the reduced intermediate is reacted with aryl halides (Ar—X and Ar′—X, stepwise) in the presence of a catalyst such as palladium to produce the desired product.

reactant | 2,7-dinitrofluorenone | [N+](=O)([O-])C=1C(C2=CC3=CC(=CC=C3C2=CC1)[N+](=O)[O-])=O | C13H6N2O5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 2,7-dinitro-9,9-bis(aminophenyl)fluorene | [N+](=O)([O-])C1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])(C1=C(C=CC=C1)N)C1=C(C=CC=C1)N | C25H18N4O4
